US06432993B1
(15-1) 5-{4-[6-(2-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
In a similar manner to that described in Example (2-2a), a reaction was carried out using t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(2-hydroxyphenoxy)phenyl}-N-methylcarbamate (1.16 g) and 4N hydrogen chloride/dioxane (20 ml) and the reaction mixture was purified and then in a similar manner to that described in Example (2-2b) the product was reacted with 4N hydrogen chloride/ethyl acetate (20 ml) and purified to give the title compound (0.79 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(2-hydroxyphenoxy)phenyl}-N-methylcarbamate | 1.16 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=CC=C2)O)N(C(OC(C)(C)C)=O)C)C=C1 | C30H31N3O8S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-[6-(2-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 0.79 g | Cl.OC1=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC=C1 | InChI=1S/C25H21N3O5S.ClH/c1-28-19-13-17(33-21-5-3-2-4-20(21)29)10-11-18(19)26-23(28)14-32-16-8-6-15(7-9-16)12-22-24(30)27-25(31)34-22;/h2-11,13,22,29H,12,14H2,1H3,(H,27,30,31);1H
